.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' typical
.temp -40

* PEX produced on Sun Aug 23 05:39:45 AM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from oscillator.ext - technology: gf180mcuD

.option scale=5n

.subckt oscillator OSC_OUT VSS VDD
X0 OSC_OUT a_2122_428# VDD VDD pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=500
X1 a_n3494_428# OSC_OUT VDD VDD pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=500
X2 a_250_428# a_n1622_428# VDD VDD pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=500
X3 a_2122_428# a_250_428# VDD VDD pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=500
X4 OSC_OUT a_2122_428# VSS VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=500
X5 a_n1622_428# a_n3494_428# VDD VDD pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=500
X6 a_n3494_428# OSC_OUT VSS VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=500
X7 a_250_428# a_n1622_428# VSS VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=500
X8 a_n1622_428# a_n3494_428# VSS VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=500
X9 a_2122_428# a_250_428# VSS VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=500
C0 a_n1622_428# VDD 4.0794f
C1 a_n1622_428# OSC_OUT 0.32056f
C2 a_n1622_428# a_250_428# 0.66762f
C3 VDD a_n3494_428# 3.97345f
C4 a_n3494_428# OSC_OUT 1.33977f
C5 VDD a_2122_428# 3.95474f
C6 a_2122_428# OSC_OUT 1.03703f
C7 a_2122_428# a_250_428# 0.46455f
C8 a_n1622_428# a_n3494_428# 0.72698f
C9 VDD OSC_OUT 3.80525f
C10 VDD a_250_428# 4.38697f
C11 OSC_OUT a_250_428# 0.21318f
C12 OSC_OUT VSS 7.33894f
C13 VDD VSS 46.2252f
C14 a_2122_428# VSS 5.05716f ; **FLOATING
C15 a_250_428# VSS 5.21864f ; **FLOATING
C16 a_n1622_428# VSS 5.09714f ; **FLOATING
C17 a_n3494_428# VSS 5.33795f ; **FLOATING
.ends

Vsupply0 VDD 0 PWL(0 0 10n 3)
Vsupply1 VSS 0 0.0
Xdut OSC_OUT VSS VDD oscillator

.control
tran 1n 3u
wrdata tran.dat v(OSC_OUT) i(Vsupply0)
.endc
.end