.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' typical
.temp 27

.subckt oscillator VDD VSS OSC_OUT
XM1p n1 OSC_OUT VDD VDD pfet_03v3 L=2.5u W=4u nf=1
XM1n n1 OSC_OUT VSS VSS nfet_03v3 L=2.5u W=2u nf=1
XM2p n2 n1 VDD VDD pfet_03v3 L=2.5u W=4u nf=1
XM2n n2 n1 VSS VSS nfet_03v3 L=2.5u W=2u nf=1
XM3p n3 n2 VDD VDD pfet_03v3 L=2.5u W=4u nf=1
XM3n n3 n2 VSS VSS nfet_03v3 L=2.5u W=2u nf=1
XM4p n4 n3 VDD VDD pfet_03v3 L=2.5u W=4u nf=1
XM4n n4 n3 VSS VSS nfet_03v3 L=2.5u W=2u nf=1
XM5p OSC_OUT n4 VDD VDD pfet_03v3 L=2.5u W=4u nf=1
XM5n OSC_OUT n4 VSS VSS nfet_03v3 L=2.5u W=2u nf=1
.ends oscillator

Vsupply0 VDD 0 PWL(0 0 10n 3.3)
Vsupply1 VSS 0 0.0
Xdut VDD VSS OSC_OUT oscillator

.control
tran 1n 1.6u
wrdata tran.dat v(OSC_OUT) i(Vsupply0)
.endc
.end